US04091027
71 ml. of a solution of anhydrous dimethylformamide containing 2 moles per liter of hydrazine hydrate (i.e. 0.142 mole) are added dropwise over a period of about 30 minutes at 0° C. to a suspension of 70.5 g. (0.128 mole) of tert-butyl 4-benzyloxycarbonyl-alphaphthalimido-1-thia-3-azaspiro[4.5]decane-2-acetate in 150 ml. anhydrous dimethylformamide. The reaction mixture is allowed to warm up to ambient temperature, with magnetic stirring, and to the resulting clear solution are added 120 ml. of 1.203N hydrochloric acid over a period of 1.5 hours. A precipitate of phthalohydrazide is formed, which is filtered off and washed several times with water, whereupon the mother liquors are evaporated in vacuo (bath temperature: maximum 40° C.) and the residue is taken up in a mixture of acetone and diethyl ether. There are finally obtained 43.2 g. (yield 73.7%) of tert-butyl alpha-amino-4-benzyloxycarbonyl-1-thia-3-azaspiro[4.5]decane-2-acetate hydrochloride.

reactant | hydrazine hydrate | 0.142 mole | O.NN
reactant | tert-butyl 4-benzyloxycarbonyl-alphaphthalimido-1-thia-3-azaspiro[4.5]decane-2-acetate | 0.128 mole | C(C1=CC=CC=C1)OC(=O)C1NC(SC12CCCCC2)C(C(=O)OC(C)(C)C)N2C(C=1C(C2=O)=CC=CC1)=O | C30H34N2O6S
reactant | hydrochloric acid | 1.203N | Cl | ClH
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 2 moles per liter | CN(C=O)C | C3H7NO
product | phthalohydrazide | C(C=1C(C(=O)NN)=CC=CC1)(=O)NN | C8H10N4O2
